datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH2+]CC(=O)[O:21][H:20].Clc1ccc(C2C[NH:10]2)cc1>>CC(C)[NH2+]CC(=O)[O-:21].Clc1ccc(C2C[NH+:10]2[H:20])cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1.Nc1nc2[nH]cnc2c([O-])[n:10]1>>Cc1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1.Nc1nc2[nH]cnc2c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"COc1ccc(Nc2ccc([NH2:10])cc2)cc1.Cc1c(O)ccc(C(=O)[O-])[n+:21]1[H:20]>>COc1ccc(Nc2ccc([NH2+:10][H:20])cc2)cc1.Cc1c(O)ccc(C(=O)[O-])[n:21]1 10=20;20,21=21",
"COc1ccc(C2C[NH:10]2)cc1.Cn1c([O-])[nH+]c2c[n+:21]([H:20])c([O-])nc21>>COc1ccc(C2C[NH+:10]2[H:20])cc1.Cn1c([O-])[nH+]c2c[n:21]c([O-])nc21 10=20;20,21=21",
"CC(=O)c1ccccc1[NH2+:21][H:20].CC(C(=O)[O-:10])C(C#N)c1ccccc1>>CC(=O)c1ccccc1[NH2:21].CC(C(=O)[O:10][H:20])C(C#N)c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H]1CCCC[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20]>>COC(=O)CSC(C)[O:10][H:20].C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-] 10=20;20,21=21",
"C[NH+](C)Cc1cc(Cl)cc(C[NH+](C)C)c1[O-:10].O=C([C@H]1C[C@@H]1c1cccc(Cl)c1)[O:21][H:20]>>C[NH+](C)Cc1cc(Cl)cc(C[NH+](C)C)c1[O:10][H:20].O=C([C@H]1C[C@@H]1c1cccc(Cl)c1)[O-:21] 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@@H]1C(=O)[O:21][H:20].COCC[NH:10]c1ccc(Cl)cc1>>CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:21].COCC[NH+:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"O=C([O-])C(Cc1nc[nH]c1I)[NH2+:21][H:20].O=C1c2[nH]cnc2N=CN1[O-:10]>>O=C([O-])C(Cc1nc[nH]c1I)[NH2:21].O=C1c2[nH]cnc2N=CN1[O:10][H:20] 10=20;20,21=21",
"CCCCOC(=O)c1ccc([O:21][H:20])cc1.OCc1c[nH]c[n:10]1>>CCCCOC(=O)c1ccc([O-:21])cc1.OCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"C1CN2C(=N1)N1CCN=C1N1CC[N:10]=C21.C[N+:21](C)(c1ccc(/N=N/c2ccncc2)cc1)[H:20]>>C1CN2C(=N1)N1CCN=C1N1CC[N+:10]([H:20])=C21.C[N:21](C)c1ccc(/N=N/c2ccncc2)cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1cccc2c[n+](CCC[NH2:10])ccc12>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1cccc2c[n+](CCC[NH2+:10][H:20])ccc12 10=20;20,21=21",
"CCOC(=O)c1ccc([O:21][H:20])cc1.c1ccc2c(c1)cn[n-:10]2>>CCOC(=O)c1ccc([O-:21])cc1.c1ccc2c(c1)cn[n:10]2[H:20] 10=20;20,21=21",
"C[NH2+][C@H]1C[C@@H]1[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+][C@H]1C[C@@H]1[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1cnc[nH]1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1cnc[nH]1)[NH2+:10][H:20] 10=20;20,21=21",
"CSc1ccc2ccccc2[n:10]1.Cc1cc([NH2+:21][H:20])cc(C)c1[N+](=O)[O-]>>CSc1ccc2ccccc2[n+:10]1[H:20].Cc1cc([NH2:21])cc(C)c1[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc(O)ccc1C(=O)[O:21][H:20].Cc1ccc(C(=S)[NH-:10])cc1>>Cc1cc(O)ccc1C(=O)[O-:21].Cc1ccc(C(=S)[NH:10][H:20])cc1 10=20;20,21=21",
"CC(=O)OC(C)C[N+:21](C)(C)[H:20].O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N-:10]1>>CC(=O)OC(C)C[N:21](C)C.O=C1C=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N:10]1[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(C[NH2:10])NCCc1c[nH]cn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C[NH2+:10][H:20])NCCc1c[nH]cn1 10=20;20,21=21",
"CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH:21][H:20].[S-]c1cc[n:10]c2ccccc12>>CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH-:21].[S-]c1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC(C)N(CCC(C(=O)[NH:21][H:20])(c1ccccc1)c1ccccn1)C(C)C.CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n:10]cn1C>>CC(C)N(CCC(C(=O)[NH-:21])(c1ccccc1)c1ccccn1)C(C)C.CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n+:10]([H:20])cn1C 10=20;20,21=21",
"CC([NH3+])C[NH2:10].CC1CCC[NH+:21]([H:20])C1>>CC([NH3+])C[NH2+:10][H:20].CC1CCC[NH:21]C1 10=20;20,21=21",
"Cc1ccc2c(c1)NCC[NH:10]2.O=S(=O)(Nc1ccncn1)c1ccc([NH2+:21][H:20])cc1>>Cc1ccc2c(c1)NCC[NH+:10]2[H:20].O=S(=O)(Nc1ccncn1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1cncc(CCCCC[NH2:10])c1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1cncc(CCCCC[NH2+:10][H:20])c1 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCc1ccc(OC)c(C(=O)NCC2CCC[N+:21]2(CC)[H:20])c1[O-].Cc1ncnc2nc[n-:10]c12>>CCc1ccc(OC)c(C(=O)NCC2CCC[N:21]2CC)c1[O-].Cc1ncnc2nc[n:10]([H:20])c12 10=20;20,21=21",
"O=C(CCCP)[O-:10].S=C(/N=N/c1ccccc1)N[NH+:21](c1ccccc1)[H:20]>>O=C(CCCP)[O:10][H:20].S=C(/N=N/c1ccccc1)N[NH:21]c1ccccc1 10=20;20,21=21",
"O=C(C[NH2:10])Nc1ccc([N+](=O)[O-])cc1.O=C([O-])C(NCC[NH+:21](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-]>>O=C(C[NH2+:10][H:20])Nc1ccc([N+](=O)[O-])cc1.O=C([O-])C(NCC[NH:21]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-] 10=20;20,21=21",
